US08609696B2
To a stirred solution of biphenyl-4-yl[4-(5-methoxy-1H-benzimidazol-2-yl)piperidin-1-yl]methanone (40 mg, 0.097 mmol) in DCM (1 mL) at −60° C. is added BBr (14 μL). After 30 mins the reaction mixture is warmed to room temperature, diluted with DCM and washed with water. The organic layer is concentrated under reduced pressure. Purification by preparative HPLC gives 6 mg of biphenyl-4-yl[4-(5-hydroxy-1H-benzimidazol-2-yl)piperidin-1-yl]methanone.

reactant | biphenyl-4-yl[4-(5-methoxy-1H-benzimidazol-2-yl)piperidin-1-yl]methanone | 0.097 mmol, 40 mg | C1(=CC=C(C=C1)C(=O)N1CCC(CC1)C1=NC2=C(N1)C=CC(=C2)OC)C2=CC=CC=C2 | C26H25N3O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | biphenyl-4-yl[4-(5-hydroxy-1H-benzimidazol-2-yl)piperidin-1-yl]methanone | 6 mg | C1(=CC=C(C=C1)C(=O)N1CCC(CC1)C1=NC2=C(N1)C=CC(=C2)O)C2=CC=CC=C2 | C25H23N3O2
